US06235771B1
To a suspension of o-vanillin (25.0 g) and potassium carbonate (28.4 g) in 2-butanone (10 ml) was added diethyl bromomalonate (49.1 g), and the mixture was refluxed under nitrogen atmosphere for 7 hours and cooled. To the mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the resulting red oil was suspended in a solution of potassium hydroxide (17.5 g) in ethanol (175 ml). The suspension was refluxed for 2 hours and cooled, and to the mixture was added water. The mixture was made acidic with 1N hydrochloric acid and extracted with ethyl acetate (twice). The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give yellow solid of 7-methoxybenzofuran-2-carboxylic acid (11.8 g).

reactant | o-vanillin | 25.0 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | potassium carbonate | 28.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl bromomalonate | 49.1 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | 7-methoxybenzofuran-2-carboxylic acid | 11.8 g | COC1=CC=CC=2C=C(OC21)C(=O)O | C10H8O4
